US06313117B1
(d) 1,2-Dimethyl-4-piperidone
A 1 M solution of TiCl4 in CH2Cl2 (23 mL, 23 mmmol, 1.0 equiv) was added to a flask under Ar and cooled to −15° C. with a MeOH/ice water bath. 3-[(2-Methoxycarbonyl-ethyl)-methyl-amino]-butyric acid methyl ester (5 g, 23 mmol, 1.0 equiv) was added dropwise over a 25 min period as solution in 75 mL of dry CH2Cl2 to give a dark red mixture that was difficult to stir with a magnetic stir bar. Stirring was continued an additional 1 h and then Et3N (5.1 g, 50.6 mmol, 2.2 equiv) was added dropwise over a 30 min period and then the reaction was stirred an additional 1.5 h at −15° C. The reaction mixture was poured into 150 mL of brine and 150 mL of CH2Cl2 was added. After thorough mixing, the pH of the water was brought to 8-9 with Et3N. The mixture was filtered and the gel-like solid was washed 3×100 mL CH2Cl2. The filtrate layers were separated and the aqueous layer was washed with 3×50 mL CH2Cl2. All of the organic layers were combined and concentrated to a thick red oil. The residue was taken up in 150 mL of concentrated HCl and the solution was refluxed 4 h. The cooled reaction solution was evaporated to dryness and the residue was dissolved in 200 mL of saturated sodium bicarbonate. The product ketone was extracted with 2×100 mL of EtOAc. The organic layers were combined and dried over Na2SO4. The product was purified by flash chromatography on SiO2 using CH2Cl2 to 4% MeOH in CH2Cl2 as eluent. The product was isolated as an orange oil (1.23 g, 42%); MS, m/z 128=M+1.

reactant | 3-[(2-Methoxycarbonyl-ethyl)-methyl-amino]-butyric acid methyl ester | 23 mmol, 5 g, 1.0 equiv | COC(CC(C)N(C)CCC(=O)OC)=O | C10H19NO4
reactant | Et3N | 50.6 mmol, 5.1 g, 2.2 equiv | CCN(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 150 mL | [Cl-].[Na+].O
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 23 mL, 1.0 equiv | C(Cl)Cl | CH2Cl2
product | 1,2-Dimethyl-4-piperidone | 1.23 g, 42% | CN1C(CC(CC1)=O)C | C7H13NO
